US05366982
sodium 2-{3-[(4,6-diphenyl-2-pyridyl)oxy]propyloxy}acetate
To potassium tert-butylate (5.52 g) in tert-butanol (60 cc) heated to 100° C. is added, in the form of a homogeneous solid, a mixture of 3-[(4,6-di-phenyl-2-pyridyl)oxy]-1-propanol (5 g) and potassium 2-bromoacetate (4.35 g). The addition is carded out in 1 hour. The reaction mixture is then heated for 48 hours at 100° C. and then poured in iced water (100 g). The pH of the aqueous phase is brought to 5 by addition of 1N hydrochloric acid. The mixture is then extracted with dichloromethane (3×50 cc) after saturating the aqueous phase with sodium chloride. The combined organic phases are dried over sodium sulphate and concentrated to dryness at 40° C. under reduced pressure. The oily residue obtained is purified by chromatography under pressure on silica gel (30-60 mm; eluent: n-hexane-diethyl ether 65-35 and then 40-60 and then diethyl ether-methanol; 9-1). The white solid obtained, taken up in acetone (5 cc), is treated with sodium hydroxide pellets (0.19 g) and distilled water (1. cc). The mixture is stirred for 60 hours at room temperature. The precipitate obtained is filtered, washed with ethyl ether and dried at 40° C. under reduced pressure. (white solid; m.p.=285°-288° C.)

reactant | potassium tert-butylate | 5.52 g | CC(C)(C)[O-].[K+]
reactant | 3-[(4,6-di-phenyl-2-pyridyl)oxy]-1-propanol | 5 g | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCO | C20H19NO2
reactant | potassium 2-bromoacetate | 4.35 g | BrCC(=O)[O-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tert-butanol | 60 cc | C(C)(C)(C)O | C4H10O
solvent | water | 100 g | O | H2O
solvent | acetone | 5 cc | CC(=O)C | C3H6O
product | sodium 2-{3-[(4,6-diphenyl-2-pyridyl)oxy]propyloxy}acetate | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCOCC(=O)[O-].[Na+] | InChI=1S/C22H21NO4.Na/c24-22(25)16-26-12-7-13-27-21-15-19(17-8-3-1-4-9-17)14-20(23-21)18-10-5-2-6-11-18;/h1-6,8-11,14-15H,7,12-13,16H2,(H,24,25);/q;+1/p-1
